US03936464
Preparation of 1-acetyl-3-[2-(3,6-dihydro-4-phenyl-1 (2H)-pyridyl)ethyl]-5-methoxy-2-methylindoline
In the manner described in Example 1, treatment of 1-acetyl-3-(2-bromoethyl)-5-methoxy-2-methylindoline with 1,2,3,6-tetrahydro-4-phenylpyridine gives white crystals, m.p. 113°-115°C., after recrystallization from dilute methanol.

reactant | 1-acetyl-3-(2-bromoethyl)-5-methoxy-2-methylindoline | C(C)(=O)N1C(C(C2=CC(=CC=C12)OC)CCBr)C | C14H18BrNO2
reactant | 1,2,3,6-tetrahydro-4-phenylpyridine | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
product | 1-acetyl-3-[2-(3,6-dihydro-4-phenyl-1 (2H)-pyridyl)ethyl]-5-methoxy-2-methylindoline | C(C)(=O)N1C(C(C2=CC(=CC=C12)OC)CCN1CCC(=CC1)C1=CC=CC=C1)C | C25H30N2O2
